US04372953
2-(3-Chloropropyl)thiopyridine (3.7 g) prepared in Reference Example 3 is dissolved in formic acid (30 ml). 30% Aqueous hydrogen peroxide (6.9 g) is added to the solution and the mixture is stirred at room temperature for 4 hours. After dilution with water, sodium hydrogen sulfite is added to the mixture with ice-cooling to destroy excess formic acid. The mixture is extracted with chloroform and the extract is washed with water, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride and dried over magnesium sulfate. Chloroform is distilled off and the residue is purified by column chromatography (Kieselgel 60). The column is eluted with chloroform-methanol (50:1) to obtain 2-pyridyl 3-chloropropyl sulfone (4 g) as colorless liquid.

reactant | 2-(3-Chloropropyl)thiopyridine | 3.7 g | ClCCCSC1=NC=CC=C1 | C8H10ClNS
reactant | hydrogen peroxide | 6.9 g | OO | H2O2
reactant | water | O | H2O
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | formic acid | 30 ml | C(=O)O | CH2O2
product | 2-pyridyl 3-chloropropyl sulfone | 4 g | ClCCCS(=O)(=O)C1=NC=CC=C1 | C8H10ClNO2S
